US08685969B2
(3-Bromophenyl)hydrazine HCl (20.5730 g, 92.4 mmol) was dissolved in 6.25 N aqueous NaOH (16 mL, 100 mmol), ethanol (80 mL) and water (60 mL), and extracted with EtOAc (200 mL). The organic layer was dried over MgSO4, filtered and concentrated in vacuo. CH2Cl2 (150 mL) was added, dried over MgSO4, filtered and concentrated in vacuo to give (3-bromophenyl)hydrazine as a light orange oil. To a heterogeneous solution of (3-bromophenyl)hydrazine (17.19 g, 92 mmol) in Phenyl ether (82 mL) was added pyridine-2,4-diol (5.11 g, 46.0 mmol). A Dean-Stark trap was set up, and the reaction was heated at 232° C. for 4 hours. A strong effervescence and gas evolution occurred often for 45 min. The solution turned homogeneous with decrease in frequency of strong effervescence and gas evolution. The reaction mixture was cooled to room temperature; precipitation ensued. HPLC and LCMS showed completion of reaction (86784-071-01). Toluene (100 mL) was added, and the mixture stirred overnight at room temperature. The mixture was filtered and the precipitate was collected. Methanol (40 mL) was added, and the solution was stirred for 20 min. The precipitate was filtered and washed with methanol, dried to give 7-bromo-2,5-dihydro-1H-pyrido[4,3-b]indol-1-one as a tan solid. Methanol (60 mL) was added, and the mixture was stirred for 7 h. The precipitate was collected to give 7-bromo-2,5-dihydro-1H-pyrido[4,3-b]indol-1-one (4.4374 g, 16.87 mmol, 36.7% yield) a light tan solid. The precipitate was collected to give 7-bromo-2,5-dihydro-1H-pyrido[4,3-b]indol-1-one (4.4374 g, 16.87 mmol, 36.7% yield) a light tan solid. The product had an HPLC Retention Time=2.585 min[mixture of rotamers] [4 min grad, 10% MeOH/water to 90% MeOH/water, 0.1% TFA, YMC COMBISCREEN® ODS-A, 4.6×50 mm, 220 nM; LC/MS+1 263.04; 265.04

reactant | (3-Bromophenyl)hydrazine HCl | 92.4 mmol, 20.5730 g | Cl.BrC=1C=C(C=CC1)NN
reactant | NaOH | 100 mmol, 6.25 N, 16 mL | [OH-].[Na+]
product | (3-bromophenyl)hydrazine | BrC=1C=C(C=CC1)NN | C6H7BrN2
